US04070539
Step B: (1Oxo-2-isopropyl-2,6,7-trichloro-5-indanyloxy)-acetic Acid
(1-Oxo-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid (60 g., 0.189 mole) is dissolved in acetic acid (400 ml.). Sulfuryl chloride (18 ml., 0.216 mole) is added dropwise to the stirred solution. The resulting clear yellow solution is then heated at 80°-85° C. for 3/4 hour, cooled and poured slowly, with stirring, into water (3 l.). The gum that separates solidifies after 16 hours to yield 55.5 g. of (1-oxo-2-isoporpyl-2,6,7-trichloro-5-indanyloxy)acetic acid, m.p. 158°-159° C., after recrystallization from acetic acid water (1:1).

reactant | (1-Oxo-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.189 mole, 60 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C(C)C | C14H14Cl2O4
reactant | Sulfuryl chloride | 0.216 mole, 18 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 3 l | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | (1Oxo-2-isopropyl-2,6,7-trichloro-5-indanyloxy)-acetic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(Cl)C(C)C | C14H13Cl3O4
